US04131611
Methyl-m-methoxymandelate is reacted with phosphorous tribromide by the method of I. P. Beletskaya, Zh. Obshch. Khim., 34, 321 (1964) to give methyl bromo-(m-methoxyphenyl)acetate as a pale yellow liquid, and used below (without further purification).

reactant | Methyl-m-methoxymandelate | COC(C(O)C1=CC(=CC=C1)OC)=O | C10H12O4
reactant | phosphorous tribromide | P(Br)(Br)Br | Br3P
product | methyl bromo-(m-methoxyphenyl)acetate | BrC(C(=O)OC)C1=CC(=CC=C1)OC | C10H11BrO3
